### PR TITLE
[Merged by Bors] - feat: Descriptive.tree basic API

### PR DESCRIPTION
**Pull request by sven-manthe**
add API on Descriptive.tree, in particular operations for switching between subtrees

---
The changes in other files are done to replace a lemma added in the previous PR by its proper general form. Taken from https://github.com/sven-manthe/A-formalization-of-Borel-determinacy-in-Lean

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 1]
```diff
@@ -27,20 +27,96 @@ def tree (A : Type*) : CompleteSublattice (Set (List A)) :=
...
+  trans := mem_of_prefix
+lemma singleton_mem (T : tree A) {a : A} {x : List A} (h : a :: x ∈ T) : [a] ∈ T :=
+  mem_of_prefix ⟨x, rfl⟩ h
 
 @[simp] lemma tree_eq_bot : T = ⊥ ↔ [] ∉ T where
   mp := by rintro rfl; simp
   mpr h := by ext x; simpa using fun h' ↦ h <| mem_of_prefix x.nil_prefix h'
 
-end Descriptive
+lemma take_mem {T : tree A} {n : ℕ} (x : T) : x.val.take n ∈ T :=
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Descriptive/Tree.lean:50]:
```suggestion
lemma take_mem {n : ℕ} (x : T) : x.val.take n ∈ T :=
```
also below

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 2]
```diff
@@ -27,20 +27,96 @@ def tree (A : Type*) : CompleteSublattice (Set (List A)) :=
...
+@[simp] lemma subAt_nil : subAt T [] = T := rfl
+@[simp] lemma subAt_append : subAt (subAt T x) y = subAt T (x ++ y) := by ext; simp
+@[gcongr] lemma subAt_mono {S T : tree A} (h : S ≤ T) : subAt S x ≤ subAt T x :=
+  Set.preimage_mono h
+
+/-- A variant of `List.drop` that takes values in `subAt` -/
+@[simps] def drop {T : tree A} (n : ℕ) (x : T) : subAt T (Tree.take n x).val :=
+  ⟨x.val.drop n, by simp⟩
+
+/-- Adjoint of `subAt` -/
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Descriptive/Tree.lean:75]: Please expand docstring with a more explicit description. ("Elements are prefixes of `x` or `x` with an element of `T` appended")

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 3]
```diff
@@ -27,20 +27,96 @@ def tree (A : Type*) : CompleteSublattice (Set (List A)) :=
...
 variable {A : Type*} {T : tree A}
 
 lemma mem_of_append {x y : List A} (h : x ++ y ∈ T) : x ∈ T := by
   induction' y with y ys ih generalizing x
   · simpa using h
   · exact T.prop (ih (by simpa))
-
 lemma mem_of_prefix {x y : List A} (h' : x <+: y) (h : y ∈ T) : x ∈ T := by
   obtain ⟨_, rfl⟩ := h'; exact mem_of_append h
+instance : Trans (List.IsPrefix) (fun x (T : tree A) ↦ x ∈ T) (fun x T ↦ x ∈ T) where
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Descriptive/Tree.lean:41]: Please add an empty line between separate declarations

**Review by fpvandoorn — COMMENTED** [review]
LGTM

Here are some comments. It might be good if someone else also takes a look at the style.

maintainer delegate

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 4]
```diff
@@ -27,20 +27,98 @@ def tree (A : Type*) : CompleteSublattice (Set (List A)) :=
...
   induction' y with y ys ih generalizing x
   · simpa using h
   · exact T.prop (ih (by simpa))
-
 lemma mem_of_prefix {x y : List A} (h' : x <+: y) (h : y ∈ T) : x ∈ T := by
   obtain ⟨_, rfl⟩ := h'; exact mem_of_append h
 
+instance : Trans (List.IsPrefix) (fun x (T : tree A) ↦ x ∈ T) (fun x T ↦ x ∈ T) where
+  trans := mem_of_prefix
+lemma singleton_mem (T : tree A) {a : A} {x : List A} (h : a :: x ∈ T) : [a] ∈ T :=
```
Comment (urkud) [inline Mathlib/SetTheory/Descriptive/Tree.lean:44]:
```suggestion

lemma singleton_mem (T : tree A) {a : A} {x : List A} (h : a :: x ∈ T) : [a] ∈ T :=
```

**Comment by YaelDillies** [comment]
Could you please finish addressing https://github.com/leanprover-community/mathlib4/pull/21234#discussion_r1987073423 ?

**Comment by sven-manthe** [comment]
> Could you please finish addressing [#21234 (comment)](https://github.com/leanprover-community/mathlib4/pull/21234#discussion_r1987073423) ?

I only found a single instance in the `SetLike` file - if there is more, I probably misunderstood the comment

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 5]
```diff
@@ -39,8 +40,104 @@ lemma mem_of_append {x y : List A} (h : x ++ y ∈ T) : x ∈ T := by
...
+@[simp] lemma mem_subAt : y ∈ subAt T x ↔ x ++ y ∈ T := Iff.rfl
+
+@[simp] lemma subAt_nil : subAt T [] = T := rfl
+
+@[simp] lemma subAt_append : subAt (subAt T x) y = subAt T (x ++ y) := by ext; simp
+
+@[gcongr] lemma subAt_mono (h : S ≤ T) : subAt S x ≤ subAt T x :=
+  Set.preimage_mono h
+
+
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Descriptive/Tree.lean:80]:
```suggestion

```

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 6]
```diff
@@ -39,8 +40,104 @@ lemma mem_of_append {x y : List A} (h : x ++ y ∈ T) : x ∈ T := by
...
+    nth_rw 1 [← List.take_append_drop x.length y]
+    simpa [- List.take_append_drop, List.prefix_iff_eq_take, hl] using h1
+  mpr := by simp +contextual [pullSub]
+
+@[simp] lemma mem_pullSub_append : x ++ y ∈ pullSub T x ↔ y ∈ T := by simp [mem_pullSub_long]
+
+@[simp] lemma mem_pullSub_self : x ∈ pullSub T x ↔ [] ∈ T := by
+  simpa using mem_pullSub_append (y := [])
+
+
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Descriptive/Tree.lean:112]:
```suggestion

```

**Review by YaelDillies — APPROVED** [review]
Indeed I think you got them all, thanks!

maintainer delegate

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 5 above)
Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean:80]: The intention of the double empty lines is to separate different logical sections of the file a bit more clearly (I think I originally used single empty lines there and did not separate the other declarations by empty lines)

Comment (YaelDillies) [reply Mathlib/SetTheory/Descriptive/Tree.lean:80]: Oh I see. If you want to separate sections of the file, you shouldn't use empty space. You should use sections
```suggestion

/-! ### `drop`

```

**Comment by fpvandoorn** [comment]
Thanks!

bors merge
